US04654360
1-Benzyl-3-phenylsulfinylindole
A mixture of toluene (100 ml), 50% sodium hydroxide (20 ml), 3-phenylsulfinylindole (4.27 g, 17.7 mmol) and benzyltrimethylammonium chloride (6.01 g, 26.5 mmol) was vigorously stirred at reflux temperature for 4 hours. The organic phase was separated and combined with an ether extract of the aqueous phase. The extract was dried and evaporated in vacuo giving a solid which on crystallization from dichloromethane-hexane gave the solid product. Chromatography of the mother liquor on silica gel using hexane-ethyl acetate (3:2) as the eluant gave a further quantity of the title compound, m.p. 148°-149° C. identical to the material prepared in Example 8.

reactant | toluene | 100 ml | C1(=CC=CC=C1)C | C7H8
reactant | sodium hydroxide | 20 ml | [OH-].[Na+]
reactant | 3-phenylsulfinylindole | 17.7 mmol, 4.27 g | C1(=CC=CC=C1)S(=O)C1=CNC2=CC=CC=C12 | C14H11NOS
catalyst | benzyltrimethylammonium chloride | 26.5 mmol, 6.01 g | [Cl-].C(C1=CC=CC=C1)[N+](C)(C)C
solvent | hexane ethyl acetate | CCCCCC.C(C)(=O)OCC
product | 1-Benzyl-3-phenylsulfinylindole | C(C1=CC=CC=C1)N1C=C(C2=CC=CC=C12)S(=O)C1=CC=CC=C1 | C21H17NOS
